US08022202B2
Method H: 4-(9-cyclopentyl-6,7,8,9-tetrahydro-5,7,7-trimethyl-6-oxo-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(1-methylazetidin-3-yl)benzamide (I-25)
4-(9-cyclopentyl-6,7,8,9-tetrahydro-5,7,7-trimethyl-6-oxo-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(azetidin-3-yl)-3-methoxybenzamide (69 mg, 0.14 mmol) was dissolved in methanol (1.5 ml). 37% aqueous formaldehyde (66 μl, 0.84 mmol) and sodium cyanoborohydride (26 mg, 0.42 mmol) were successively added. The reaction mixture was stirred at room temperature for 2 hours. The crude mixture was diluted with 2N HCl then, basified with a saturated solution of NaHCO3. The mixture was extracted twice with ethyl acetate. The combined organic phases were dried (MgSO4 and concentrated in vacuo. The title compound (33 mg) was obtained as a white solid after crystallization from ethyl acetate. NMR DMSO D6 1.10 (6H, s), 1.55-1.69 (4H, m), 1.69-1.80 (2H, m), 1.82-1.95 (2H, m), 2.28 (3H, s), 3.01 (2H, t), 3.38 (2H, s), 3.57 (2H, t), 3.95 (3H, s), 4.39-4.50 (1H, m), 5.12-5.25 (1H, m), 7.43-7.52 (2H, m), 7.71 (1H, s), 8.00 (1H, s), 8.38 (1H, d), 8.63 (1H, d); HPLC rt(min): 9.60; MS (ES+) 508, (ES−) 506.

reactant | 4-(9-cyclopentyl-6,7,8,9-tetrahydro-5,7,7-trimethyl-6-oxo-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(azetidin-3-yl)-3-methoxybenzamide | 0.14 mmol, 69 mg | C1(CCCC1)N1C2=C(N(C(C(C1)(C)C)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)NC1CNC1)C=C2)OC | C26H35N7O3
reactant | formaldehyde | 0.84 mmol, 66 μl | C=O | CH2O
reactant | sodium cyanoborohydride | 0.42 mmol, 26 mg | C(#N)[BH3-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methanol | 1.5 ml | CO | CH4O
solvent | HCl | 2N | Cl | ClH
product | 4-(9-cyclopentyl-6,7,8,9-tetrahydro-5,7,7-trimethyl-6-oxo-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(1-methylazetidin-3-yl)benzamide | 33 mg | C1(CCCC1)N1C2=C(N(C(C(C1)(C)C)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)NC1CN(C1)C)C=C2)OC | C27H37N7O3
